US08603975B2
Azetidine-3-carboxylic acid (2.0 g) was dissolved in a mixed solvent of THF (20 ml) and water (10 ml). The pH value of the mixture was adjusted to 9 with 1N NaOH under ice-cooled bath. Boc2O was added to the mixture, and the whole was stirred for 1.5 hours with keeping pH=9. The whole was made acidic with 0.5 N HCl and extracted with EtOAc, and the extract was washed with water and brine and dried over MgSO4. Concentration under reduced pressure gave 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid (2.7 g).

reactant | Azetidine-3-carboxylic acid | 2.0 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 0.5 N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 1-(tert-butoxycarbonyl)azetidine-3-carboxylic acid | 2.7 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
